US08183264B2
3-(1-(4-Benzyloxy-benzyl)-1H-[1,2,3]triazol-4-yl)-pyridin-2-ylamine
To a solution of a tert-butyl alcohol (500 μL), water (600 μL) and the 3-ethynyl-pyridin-2-ylamine (30 mg) described in Manufacturing Example 1-2 were added 1-benzyloxy-4-chloromethyl-benzene (59 mg), sodium azide (17 mg), copper sulfate (8 mg), and copper (13 mg) at room temperature, which was irradiated for 10 minutes at no higher than 125° C. with 100 W microwaves. Water was added to the reaction mixture, which was filtered through Celite. The filtrate thus obtained was extracted with ethyl acetate, and the organic layer was washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and filtered, and then the solvent was evaporated from the filtrate under a reduced pressure. The residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% TFA), which was then further purified by silica gel column chromatography (ethyl acetate:methanol=15:1) to obtain the titled compound (7 mg).

reactant | tert-butyl alcohol | 500 μL | C(C)(C)(C)O | C4H10O
reactant | 3-ethynyl-pyridin-2-ylamine | 30 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | 1-benzyloxy-4-chloromethyl-benzene | 59 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCl | C14H13ClO
reactant | sodium azide | 17 mg | [N-]=[N+]=[N-].[Na+]
catalyst | copper sulfate | 8 mg | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | copper | 13 mg | [Cu] | Cu
solvent | Water | O | H2O
solvent | water | 600 μL | O | H2O
product | 3-(1-(4-Benzyloxy-benzyl)-1H-[1,2,3]triazol-4-yl)-pyridin-2-ylamine | 7 mg | C(C1=CC=CC=C1)OC1=CC=C(CN2N=NC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H19N5O
